US05206240
A solution of 3,4-dihydro-6-acetamido-1'-(4-aminobenzyl)spiro[(2H)-1-benzopyran-2,4'-piperidine](136 mg, 0.36 mmol) and hydrochloric acid (6N solution, 13. 6 ml) in methanol (13.6 ml) was heated at reflux temperature for 1 hr. The reaction mixture was cooled to 0° C. and basified with 20% sodium hydroxide solution. Extraction with methylene chloride, drying and solvent evaporation gave 3,4-dihydro-6-amino-1'-(4-aminobenzyl)spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one (107 mg, 88%);

reactant | 3,4-dihydro-6-acetamido-1'-(4-aminobenzyl)spiro[(2H)-1-benzopyran-2,4'-piperidine] | 0.36 mmol, 136 mg | C(C)(=O)NC=1C=CC2=C(CCC3(CCN(CC3)CC3=CC=C(C=C3)N)O2)C1 | C22H27N3O2
reactant | hydrochloric acid | 6N, 6 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 13.6 ml | CO | CH4O
product | 3,4-dihydro-6-amino-1'-(4-aminobenzyl)spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 107 mg, 88% | NC=1C=CC2=C(C(CC3(CCN(CC3)CC3=CC=C(C=C3)N)O2)=O)C1 | C20H23N3O2
